US06512081B1
Similarly, as in Example 5, the 1-cyano-1-cyclohexyl dithiobenzoate was prepared by heating a degassed solution of 1,1′-azobis(cyclohexanecarbonitrile) and di(thiobenzoyl)disulfide at 70° C. in ethyl acetate for 48 hours.

reactant | 1,1′-azobis(cyclohexanecarbonitrile) | N(=NC1(CCCCC1)C#N)C1(CCCCC1)C#N | C14H20N4
reactant | di(thiobenzoyl)disulfide | C(C1=CC=CC=C1)(=S)SSC(C1=CC=CC=C1)=S | C14H10S4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-cyano-1-cyclohexyl dithiobenzoate | C(C1=CC=CC=C1)(=S)SC1(CCCCC1)C#N | C14H15NS2
